### PR TITLE
feat: add BitVec.and_add_xor_eq_or

### PR DESCRIPTION
**Pull request by tobiasgrosser**
This solves one AliveStatement

### CODE REVIEW

File: SSA/Projects/InstCombine/ForLean.lean [hunk 1]
```diff
@@ -810,6 +810,23 @@ lemma toInt_zero_iff (w : Nat) (x : BitVec w) : BitVec.toInt x = 0 ↔ x = 0 :=
...
+    case zero =>
+      simp [carry, Nat.mod_one]
+    case succ v v_h =>
+      simp only [carry_succ, v_h, Bool.atLeastTwo_false_right, getLsb_and,
+        getLsb_xor, Bool.and_eq_false_imp, Bool.and_eq_true, bne_eq_false_iff_eq,
+        and_imp]
+      intros x x'
+      rw [x, x']
+  simp only [Bool.bne_assoc]
+  by_cases h_a : a.getLsb ↑i <;> simp [h_a, hj]
```
Comment (alexkeizer) [inline SSA/Projects/InstCombine/ForLean.lean:828]: Regular `cases` should be able to handle this
```suggestion
  cases a.getLsb ↑i <;> simp [hj]
```

File: SSA/Projects/InstCombine/ForLean.lean [hunk 2]
```diff
@@ -810,6 +810,23 @@ lemma toInt_zero_iff (w : Nat) (x : BitVec w) : BitVec.toInt x = 0 ↔ x = 0 :=
...
+  have hj : carry (↑i) (b &&& a) (b ^^^ a) false = false := by
+    induction i.val
+    case zero =>
+      simp [carry, Nat.mod_one]
+    case succ v v_h =>
+      simp only [carry_succ, v_h, Bool.atLeastTwo_false_right, getLsb_and,
+        getLsb_xor, Bool.and_eq_false_imp, Bool.and_eq_true, bne_eq_false_iff_eq,
+        and_imp]
+      intros x x'
+      rw [x, x']
```
Comment (alexkeizer) [inline SSA/Projects/InstCombine/ForLean.lean:826]: It might make sense to extract this into it own (`simp`) theorem

**Review by alexkeizer — COMMENTED** [review]
Some minor comments, but otherwise LGTM
